US07271268B1
A 3 L 3-neck round bottle flask was equipped with mechanical stirrer, a thermometer, a nitrogen inlet and an additional funnel. To the flask was charged 200 g of 1,1-cyclopropyldimethanol and 200 mL of methylene chloride. The mixture was cooled to 0˜5° C. 1440 g of 33% HBr in glacial acetic acid was slowly added to reaction solution and kept the temperature below 20° C. After the addition, the reaction mixture was stirred at between 10° C. and 18° C. for about 2 hours and then warmed to 16˜22° C. and stirred about 1 hour. When the starting material of 1,1-cyclopropyldimethanol was disappeared (checked by TLC, mobile phase:EA/hx=1/3(V/V)), 1000 mL of water was added to the reaction mixture with stirring over 30 min and kept the temperature below 20° C. The layers were separated and the aqueous layer was back extracted with 300 mL methylene chloride. To the combined organic layers was added 400 ml of water, and then was neutralized to pH 6˜7 with 10% NaOH aqueous solution. The organic layers were concentrated to obtain 396 g of crude [1-(bromomethyl)cyclopropyl]methyl acetate.

reactant | 1,1-cyclopropyldimethanol | 200 g | C1CC1(CO)CO | C5H10O2
reactant | methylene chloride | 200 mL | C(Cl)Cl | CH2Cl2
reactant | HBr | 1440 g | Br | BrH
reactant | EA | CC(OCC)=O | C4H8O2
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | 1000 mL | O | H2O
product | [1-(bromomethyl)cyclopropyl]methyl acetate | 396 g | C(C)(=O)OCC1(CC1)CBr | C7H11BrO2
